US08138339B2
A mixture of ethyl 2,4-dichloropyrimidine-5-carboxylate (0.221 g, 1.00 mmol), 1-Boc-4-aminomethylpiperidine hydrochloride (0.251 g, 1.00 mmol) and triethylamine (0.556 mL, 4.00 mmol) in CH3CN (10 mL) was stirred at room temperature for 20 h. Water and EtOAc were added. The organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give ethyl 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-2-chloropyrimidine-5-carboxylate (0.390 g).

reactant | ethyl 2,4-dichloropyrimidine-5-carboxylate | 1.00 mmol, 0.221 g | ClC1=NC=C(C(=N1)Cl)C(=O)OCC | C7H6Cl2N2O2
reactant | 1-Boc-4-aminomethylpiperidine hydrochloride | 1.00 mmol, 0.251 g | Cl.C(=O)(OC(C)(C)C)N1CCC(CC1)CN
reactant | triethylamine | 4.00 mmol, 0.556 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-2-chloropyrimidine-5-carboxylate | 0.390 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC(=NC=C1C(=O)OCC)Cl | C18H27ClN4O4
